US04716237
4,4-Dimethyl-2-phenyl-3-oxopentanenitrile
116 grams (1 mole) of methyl pivalate, 60 grams (2 moles) of sodium hydride (80 weight % suspension in white oil) and 234.3 grams (2 moles) of benzyl cyanide were reacted in 750 ml of dry toluene at 60° C. until the end of the evolution of hydrogen. There were added 500 ml of water to the cooled reaction solution, the mixture stirred and the aqueous phase acidified with HCl to pH 3 after the separation and then extracted with chloroform. After concentrating the chloroform the oil residue was fractionated at 0.6 Torr. 110.6 grams (55% of theory) of 4,4-dimethyl-2-phenyl-3-oxopentanenitrile came over at 111° C.

reactant | methyl pivalate | 1 mole, 116 grams | C(C(C)(C)C)(=O)OC | C6H12O2
reactant | sodium hydride | 2 moles, 60 grams | [H-].[Na+]
reactant | benzyl cyanide | 2 moles, 234.3 grams | C(C1=CC=CC=C1)C#N | C8H7N
reactant | hydrogen | [H][H] | H2
reactant | HCl | Cl | ClH
solvent | toluene | 750 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 500 ml | O | H2O
product | 4,4-Dimethyl-2-phenyl-3-oxopentanenitrile | CC(C(C(C#N)C1=CC=CC=C1)=O)(C)C | C13H15NO
